US05399578
b) N-Carboethoxy-N-[(2'-(1H-tetrazol-5-yl)biphenyl-4-yl)methyl]-(L)-valine benzyl ester
10.0 g of N-carboethoxy-N-[(2'-cyanobiphenyl-4-yl)methyl]-(L)-valine benzyl ester and 9.2 g of tributyltin azide in 150 ml of xylene are heated to reflux for 18 hours. The reaction mixture is concentrated and the residue is stirred in 5M etherial hydrochloric acid for 15 minutes. The mixture is concentrated again, and the residue is dissolved in ether and extracted with cold 4M potassium hydroxide solution. The aqueous phase is rendered acidic and extracted with ethyl acetate. This ethyl acetate phase is washed with brine, dried over magnesium sulfate and concentrated. The crude product is purified by means of flash chromatography (250 g of silica gel, eluent N6). Amorphous product, TLC (system N6) Rf : 0.22.

reactant | N-carboethoxy-N-[(2'-cyanobiphenyl-4-yl)methyl]-(L)-valine benzyl ester | 10.0 g | C(C1=CC=CC=C1)OC([C@@H](N(CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)C(=O)OCC)C(C)C)=O | C29H30N2O4
reactant | tributyltin azide | 9.2 g | C(CCC)[Sn](CCCC)(CCCC)N=[N+]=[N-]
solvent | xylene | 150 ml | C=1(C(=CC=CC1)C)C | C8H10
product | N-Carboethoxy-N-[(2'-(1H-tetrazol-5-yl)biphenyl-4-yl)methyl]-(L)-valine benzyl ester | C(C1=CC=CC=C1)OC([C@@H](N(CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C(=O)OCC)C(C)C)=O | C29H31N5O4
